US07388006B2
5-[3-[1-{2-Fluoro-3-trifluoromethylphenyl)-cyclopropyl]-2-oxo-propionylamino}-phthalide
Preparation from 3-[1-(2-fluoro-3-trifluoromethylphenyl)-cyclopropyl]-2-oxo-propionic acid and 5-aminophthalide analogously to the preparation of 5-{3-[1-(2-fluoro-5-trifluoromethylphenyl)-cyclopropyl]-2-oxo-propionylamino}-phthalide (cf. Example 1a)). M.p. 157-158° C.

reactant | 3-[1-(2-fluoro-3-trifluoromethylphenyl)-cyclopropyl]-2-oxo-propionic acid | FC1=C(C=CC=C1C(F)(F)F)C1(CC1)CC(C(=O)O)=O | C13H10F4O3
reactant | 5-aminophthalide | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
product | 5-[3-[1-{2-Fluoro-3-trifluoromethylphenyl)-cyclopropyl]-2-oxo-propionylamino}-phthalide | FC1=C(C=CC=C1C(F)(F)F)C1(CC1)CC(C(=O)NC=1C=C2COC(=O)C2=CC1)=O | C21H15F4NO4
